US04840953
Preparation of 9-(benzyloxycarbonyl)thio-3-carboxy-4H-pyrido[1,2-a]pyrimidin-4-one Ie-80.
A mixture of 0.872 g of 9-(benzylcarbonyl)thio-3-(4-methoxybenzyloxycarbonyl)-4H-pyrido[1,2-a]pyrimidin-4-one Ie-79, 2.5 g of anisole and 10 ml of dry methylene chloride is cooled with ice water, mixed with 5 ml of trifluoroacetic acid and stirred under cooling with ice water for 3 hours. The reaction mixture is concentrated to dryness in vacuo, and the residue is recrystallized from ethyl acetate to give the titled compound Ie-80.

reactant | 9-(benzylcarbonyl)thio-3-(4-methoxybenzyloxycarbonyl)-4H-pyrido[1,2-a]pyrimidin-4-one | 0.872 g | C(C1=CC=CC=C1)C(=O)SC1=CC=CN2C1=NC=C(C2=O)C(=O)OCC2=CC=C(C=C2)OC | C25H20N2O5S
reactant | anisole | 2.5 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 9-(benzyloxycarbonyl)thio-3-carboxy-4H-pyrido[1,2-a]pyrimidin-4-one | C(C1=CC=CC=C1)OC(=O)SC1=CC=CN2C1=NC=C(C2=O)C(=O)O | C17H12N2O5S
